Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Pravachol
 
Attending: ___
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
___
1.  Coronary artery bypass graft x4.  Total arterial
revascularization.
2.  Skeletonized left internal mammary artery sequential
grafting to diagonal and left anterior descending arteries.
3.  Left radial artery graft with a segment of left internal
mammary artery extension, sequential grafting to posterior
left ventricular branch and posterior descending arteries.
4.  Endoscopic harvesting of the left radial artery.

 
History of Present Illness:
Very nice ___ year old gentleman who with past medical history of 
COPD, hypertension, hyperlipidemia and s/p AAA/EVAR in ___. He 
was noted to have asymptomatic PVCs in the pattern of bigeminy 
by EKG at the time of visit to PCP ___ ___. An echocardiogram 
was performed and demonstrated interval development of mild 
systolic dysfunction with LVEF 45%. A nuclear stress imaging 
showed moderate to large areas of ischemia in the LAD and RCA 
territory.
He underwent a cardiac catheterization which revealed 
multivessel disease and he was referred for surgical 
revascularization. He states that he is sometimes fatigued and 
short of breath with exertion but has been attributing this to 
old age and COPD.  He denies chest pain, recent fevers/chills, 
nausea/vomiting and
lower extremity edema. 

CT surg recommended surgery to reduce the pts risk of future MI 
and/or death. 

 
Past Medical History:
Past Medical History:
Coronary artery disease
Peripheral vascular disease
Hyperlipidemia
Hypertension
COPD severe
Iliac artery aneurysm, bilateral
Pancreatic cyst
Pulmonary nodule - followed and stable by CT
Proteinuria 
Past Surgical History:
S/P AAA (abdominal aortic aneurysm) repair ___
Bilateral cataract surgery

 
Social History:
___
Family History:
Cancer - Lung - Daughter 
___ - Mother 
lung cancer Daughter 

 
Physical Exam:
General: NAD, well appearing
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x] Edema [] absent_____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: deferred Left: deferred
DP           Right: present  Left: present
___           Right: present  Left: present
Radial       Right: present  Left: present
Carotid Bruit:   Right: none appreciated    Left:none 
appreciated

Discharge Exam 
 ___ 97.4 PO 147 / 80 L Sitting 54 R18 SaO296/3l 
>________________   
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [] 
Cardiovascular: RRR [x] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  No Edema  
Left Upper extremity    Warm [x]  No Edema 
Right Lower extremity   Warm [x]  No Edema 
Left Lower extremity    Warm [x]  No Edema 

Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] 
Lower extremity: Right [] Left [x]  CDI []

                    WBC RBC    Hgb Hct   MCV MCH MCHC   RDW 
RDWSD Plt Ct 
___ 05:14    6.9 3.08* 9.3* 29.4* 96 30.2 31.6* 12.8 43.9 
139* 
                    Glucose UreaN Creat Na K    Cl HCO3 AnGap 
___ 05:10            25*   0.9      3.8       
___ 05:14            32*   0.9      4.1       
___ 05:20    115*1   32*   1.0  140,4.5  100 28 12 

 
Pertinent Results:
Cardiac Catheterization: Date: ___    Place: ___ 

Coronary Circulation:
The coronary circulation is right dominant. There was signifcant
2 vessel coronary artery disease (LAD and RCA)
Left Main: angiography showed minor luminal irregularities
LAD: multiple discrete lesions, this is an excellent target for
bypass. 
Ostial LAD: There was a discrete 80% stenosis
Proximal LAD: there was a discrete 90% stenosis
Circumflex: angiography showed mild atherosclerosis
RCA: the vessel was very large sized (dominant). Angiography
showed multiple discrete lesions. This is an excellent target 
for
bypass
Proximal RCA: there was a tubular 100% stenosis
Distal RCA: there was a tubular 70% stenosis
Right PDA: this is an excellent target for bypass
___ posterolateral segment: the vessel was large sized. There 
was
a tubular 100% stenosis in the proximal third of the vessel
segment. This is an excellent target for bypass.

Cardiac Echocardiogram:

Carotid Ultrasound:

Pulmonary Function: 

Nuclear Stress: ___
Abnormal nuclear perfusion images.

There is a large in size, moderate to severe, partially
reversible perfusion defect affecting basal inferior, mid
inferior, and apical inferior segment corresponding to
___ ischemia in the RCA distribution.

There is a moderate in size, moderate in severity, partially
reversible perfusion defect affecting apical anterior, and 
apical
segments corresponding to ___ ischemia in the distal 
LAD
distribution.

Mildly reduced left ventricular systolic function with regional
wall motion abnormalities as detailed above, LVEF 42%.

There are no prior images available for direct comparison.
.
L-mibi ___:
There is a large in size, moderate to severe, partially
reversible perfusion defect affecting basal inferior, medial
inferior, and apical inferior segment corresponding to
___ ischemia in the RCA distribution. There is a
moderate in size, moderate in severity, partially reversible
perfusion defect affecting apical anterior, and apical segments
corresponding to ___ ischemia in the distal LAD
distribution.

Mildly reduced left ventricular systolic function with regional
wall motion abnormalities as detailed above, LVEF 42%.

Intraoperative TEE: POST-OP STATE: The TEE was performed at 
13:00:00. Sinus rhythm.
Support: Vasopressor(s): none.
Left Ventricle: Systolic function is improved. Improved regional 
function in anterior and inferior
territories Global ejection fraction is normal.
Right Ventricle: No change in systolic function.
Aorta: Intact. No dissection.
Aortic Valve: No change in aortic valve morphology from 
preoperative state. No change in aortic
regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state. No change in valvular
regurgitation from preoperative state.
Pericardium: No effusion.

Discharge Labs
___ 05:14AM BLOOD WBC-6.9 RBC-3.08* Hgb-9.3* Hct-29.4* 
MCV-96 MCH-30.2 MCHC-31.6* RDW-12.8 RDWSD-43.9 Plt ___
___ 05:10AM BLOOD UreaN-25* Creat-0.9 K-3.8
___ 05:20AM BLOOD Glucose-115* UreaN-32* Creat-1.0 Na-140 
K-4.5 Cl-100 HCO3-28 AnGap-12
 
Brief Hospital Course:
Pt was admitted as a same day admission, was taken to the 
operating room on ___ and underwent Coronary artery bypass 
graft x4, total arterial revascularization,  skeletonized left 
internal mammary artery sequential grafting to diagonal and left 
anterior descending arteries, left radial artery graft with a 
segment of left internal mammary artery extension, sequential 
grafting to posterior left ventricular branch and posterior 
descending arteries. Please see operative note for full details. 
Pt tolerated the procedure well and was transferred to the ___ 
in stable condition for recovery and invasive monitoring. 
  
Pt was weaned from sedation, awoke neurologically intact, and 
was extubated on POD 1. Pt was weaned from vasopressor support. 
Nitroglycerine was transitioned to Isordil for radial artery 
graft patency. Beta blocker was initiated and pt was diuresed 
toward his preoperative weight. Pt remained hemodynamically 
stable and was transferred to the telemetry floor for further 
recovery. He had a brief episode of atrial fibrillation which 
converted with Lopressor. No anticoagulation was required. 
Lopressor was increased for ectopy and heart rate control. Pt 
was evaluated by the physical therapy service for assistance 
with their strength and mobility. He was kept additional days 
for more aggressive diuresis with ambulatory O2 sats in the 80's 
(history of COPD, as well). Home inhalers were restarted. 

Discharge was initially held due to volume overload though 
patient was minimally symptomatic. He was discharged on POD6, 
well below his preop weight. Pt was ambulating freely without 
symptoms. His O2Sats continued to dip mid-high 80's at 
discharge. Pt remained asymptomatic while walking. A room air 
ABG was done showing pH 7.44, paO2 62, pCO249 , all wounds were 
healing, and pain was controlled with Tylenol. Pt was discharged 
home w/services in good condition with appropriate follow up 
instructions.

 
Medications on Admission:
Medications - Prescription
ATORVASTATIN - atorvastatin 40 mg tablet. 1 tablet(s) by mouth
once a day (in the evening) -  (Prescribed by Other Provider)
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 12.5 mg capsule. 1
capsule(s) by mouth once a day -  (Prescribed by Other Provider)
LISINOPRIL - lisinopril 20 mg tablet. 1 tablet(s) by mouth once 
a
day -  (Prescribed by Other Provider)
METOPROLOL SUCCINATE - metoprolol succinate ER 25 mg
tablet,extended release 24 hr. 1 tablet(s) by mouth once a day - 

(Prescribed by Other Provider)
UMECLIDINIUM [INCRUSE ELLIPTA] - Incruse Ellipta 62.5
mcg/actuation powder for inhalation.   1 puff daily - 
(Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Famotidine 20 mg PO DAILY 
RX *famotidine [Pepcid] 20 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Furosemide 40 mg PO DAILY Duration: 10 Days 
RX *furosemide [Lasix] 40 mg 1 tablet(s) by mouth once a day 
Disp #*10 Tablet Refills:*0 
4.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation 1 puff  
DAILY  
5.  Isosorbide Dinitrate 10 mg PO TID Duration: 6 Months 
RX *isosorbide dinitrate 10 mg 1 tablet(s) by mouth three times 
a day Disp #*90 Tablet Refills:*5 
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride 20 mEq 1 tabs by mouth once a day Disp 
#*10 Tablet Refills:*0 
8.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth Q 6 hours Disp 
#*30 Tablet Refills:*0 
9.  Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1 
10.  Aspirin EC 81 mg PO DAILY  
11.  Atorvastatin 40 mg PO QPM  
12.  Hydrochlorothiazide 12.5 mg PO DAILY 
Start once you are done with furosemide  
13.  umeclidinium 62.5 mcg/actuation inhalation DAILY  
14. HELD- Lisinopril 20 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you follow with your 
cardiologist

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease
Hypoxia
Volume overload
Acute post-operative blood loss anemia, resolving
Peripheral vascular disease
Hyperlipidemia
Hypertension
COPD severe
Iliac artery aneurysm, bilateral
Pancreatic cyst
Pulmonary nodule - followed and stable by CT
Proteinuria 

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Tylenol

Incisions: 
Sternal - healing well, no erythema or drainage 
Left upper extremity - healing well, no erythema or drainage.
Trace Edema bilaterally 

 
Discharge Instructions:
 Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the 
chart.
****call MD if weight goes up more than 3 lbs in 24 hours or 5 
lbs over  5 days****.
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___